US09145414B2
Cyclopropyl boronic acid (1.0 g), sodium bicarbonate (0.99 g), copper acetate (II) (1.1 g), and 2,2′-bipyridine (0.92 g) were added to a solution of 4-nitro-1H-indole (0.96 g) in 1,2-dichloroethane (60 ml). The reaction solution was stirred at room temperature for 7 days, and then further stirred at 60° C. for 2 hours. The insolubles were filtrated through celite, and then the resultant was washed successively with water and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 1-cyclopropyl-4-nitro-1H-indole as a yellow solid.

reactant | Cyclopropyl boronic acid | 1.0 g | C1(CC1)B(O)O | C3H7BO2
reactant | sodium bicarbonate | 0.99 g | C([O-])(O)=O.[Na+]
reactant | 2,2′-bipyridine | 0.92 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | 4-nitro-1H-indole | 0.96 g | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
catalyst | copper acetate | 1.1 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-cyclopropyl-4-nitro-1H-indole | C1(CC1)N1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C11H10N2O2
